US04224071
Preparation of 2,3-Dihydro-2,2-Dimethyl-6-(4-Nitroanthrylazo)Perimidine
In the manner described in Example 8, substituting 12.0 grams of 1-amino-4-nitroanthracene for the 1-amino-4-nitronaphthalene, the desired compound is obtained.

reactant | 1-amino-4-nitroanthracene | 12.0 grams | NC1=CC=C(C2=CC3=CC=CC=C3C=C12)[N+](=O)[O-] | C14H10N2O2
reactant | 1-amino-4-nitronaphthalene | NC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C10H8N2O2
product | 2,3-Dihydro-2,2-Dimethyl-6-(4-Nitroanthrylazo)Perimidine | CC1(NC=2C=CC=C3C(=CC=C(N1)C23)N=NC2=CC=C(C3=CC1=CC=CC=C1C=C23)[N+](=O)[O-])C | C27H21N5O2
